US05567816
A mixture of 9-(2-trimethylsilylethoxymethyl)guanine (15.8 g), water (250 ml), and acetic acid (20 ml) was heated to reflux, giving a solution. The hot solution was treated with a small amount of Montmorillonite K10 (an acidic clay) to remove any color, filtered, and the filtrate slowly cooled to 5° C. The white crystalline solid thus produced was filtered off, to yield 9-(2-hydroxyethoxymethyl)guanine (8.8 g, 69%). 1H NMR 3.38 (4H, singlet); 4.64 (1H, broad singlet); 5.26 (2H, singlet); 6.54 (2H, broad singlet); 7.68 (1H, singlet).

reactant | 9-(2-trimethylsilylethoxymethyl)guanine | 15.8 g | C[Si](CCOCN1C=2N=C(NC(C2N=C1)=O)N)(C)C | C11H19N5O2Si
reactant | water | 250 ml | O | H2O
reactant | Montmorillonite K10 | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 9-(2-hydroxyethoxymethyl)guanine | 8.8 g, 69% | OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O3
